US08455479B2
Sodium hydride (18 mg, 0.45 mmol, 60% suspension in mineral oil) was washed with hexane (2×2 mL) in, a flame dried round bottomed flask under nitrogen atmosphere. To the resulting free floating powder, was added a solution of 2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester (80 mg, 0.30 mmol) in dry DMF (3 mL) at 0° C. The reaction mixture was stirred at this temperature for 1 h. Iodomethane (0.0.19 mL, 0.30 mmol) was added at 0° C. and the reaction mixture was allowed to come to r.t. and stirred overnight. After the completion of the reaction as confirmed by TLC, reaction mixture was cooled to 0° C. and saturated solution of ammonium chloride (2 mL) was added dropwise to the reaction mixture. The crude product was extracted with ethyl acetate (2×10 mL). The combined organic layers were dried over Na2SO4 and the solvents were removed in vacuo to afford 1-methyl-2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester (75 mg, 89%) as a viscous oil which was used as such without any further purification for the next step.

reactant | Sodium hydride | 0.45 mmol, 18 mg | [H-].[Na+]
reactant | 2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester | 0.30 mmol, 80 mg | C(C)(C)(C)OC(=O)N1CC(NC2=C(C1)C=CC=C2)=O | C14H18N2O3
reactant | Iodomethane | 0.30 mmol | IC | CH3I
reactant | ammonium chloride | 2 mL | [Cl-].[NH4+]
solvent | hexane | 2 mL | CCCCCC | C6H14
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-methyl-2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester | 75 mg, 89% | C(C)(C)(C)OC(=O)N1CC(N(C2=C(C1)C=CC=C2)C)=O | C15H20N2O3
